US09422312B2
Step 1: [(4-Bromophenyl)methyl][methyl(oxo)pyrrolidin-1-yl-λ6-sulfanylidene]amine
Imino(methyl)pyrrolidin-1-yl-λ6-sulfanone (80 mg) is added to potassium hydride (87 mg) in 1,2-dimethoxyethane (2 mL) under an argon atmosphere and the resulting mixture is stirred for 15 min at room temperature. Benzyltriethylammonium chloride (7 mg) and 4-bromobenzyl bromide (148 mg) are added and the mixture is stirred overnight at room temperature. The reaction mixture is cooled in an ice bath and quenched with saturated aqueous NH4Cl solution. The mixture is diluted with diethyl ether and extracted with 3 N hydrochloric acid. The aqueous phase is carefully neutralized with solid K2CO3 and extracted with dichloromethane. The combined organic phases are dried over MgSO4 and concentrated in vacuo. The residue is chromatographed on silica gel (ethyl acetate/methanol 98:2→90:10) to give the title compound. LC (method 1): tR=0.85 min; Mass spectrum (ESI+): m/z=317, 319 [M+H]+.

reactant | Imino(methyl)pyrrolidin-1-yl-λ6-sulfanone | 80 mg | N=S(=O)(N1CCCC1)C | C5H12N2OS
reactant | potassium hydride | 87 mg | [H-].[K+]
reactant | 4-bromobenzyl bromide | 148 mg | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | 1,2-dimethoxyethane | 2 mL | COCCOC | C4H10O2
catalyst | Benzyltriethylammonium chloride | 7 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | [(4-Bromophenyl)methyl][methyl(oxo)pyrrolidin-1-yl-λ6-sulfanylidene]amine | BrC1=CC=C(C=C1)CN=S(N1CCCC1)(=O)C | C12H17BrN2OS
